plaintext
* Differential Amplifier Circuit

VCC 3 0 DC 2.5V
VIN1 2 0 DC 2V
VIN2 4 0 DC 1V

I1 P 0 DC IEE

RC1 5 3 RC
RC2 3 3 RC

Q1 5 2 P Q1_MODEL
Q2 3 4 P Q2_MODEL

.model Q1_MODEL NPN
.model Q2_MODEL NPN

.END